US05059597
d) Ethyl 2,8-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate
A methanolic methylhydroxylamine solution is prepared from 16.4 g (0.2 mol) of N-methylhydroxylamine hydrochloride in 33 ml of absolute methanol and 36 g (0.2 mol) of 30% strength sodium methylate solution, and the solution formed is diluted with 130 ml of toluene and added dropwise to 354 g (0.17 mol) of N-allyl-N-(1-oxoprop-2-yl)-urethane in 250 ml of toluene, which is heated under reflux using a water separator. The mixture is heated under reflux overnight, the product is extracted with dilute hydrochloric acid and the hydrochloric acid solution is rendered alkaline with K2CO3 and extracted with CHCl3. The extract is dried over K2CO3 and concentrated and the residue is distilled.

reactant | N-methylhydroxylamine hydrochloride | 0.2 mol, 16.4 g | Cl.CNO
reactant | sodium methylate | C[O-].[Na+]
reactant | N-allyl-N-(1-oxoprop-2-yl)-urethane | 0.17 mol, 354 g | C(C=C)N(C(=O)OCC)C(C=O)C | C9H15NO3
reactant | water | O | H2O
solvent | methanol | 33 ml | CO | CH4O
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2,8-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | CN1C2C(N(CC2CO1)C(=O)OCC)C | C10H18N2O3
